US06518264B2
A mixture of 0.3 g of 1-benzhydryl-3-{[3-(N-tert-butyloxycarbonyl-N-methylamino)phenyl](methylsulfonyl)methylene}azetidine, 4 cm3 of a 4.7 N solution of hydrochloric dioxane and 4 cm3 of dioxane is stirred for 18 hours at room temperature. The reaction medium is concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up in 100 cm3 of water and 20 cm3 of diethyl ether. The aqueous phase is alkalinized with 30 cm3 of an aqueous sodium bicarbonate solution. The organic phase is extracted with twice 40 cm3 of ethyl acetate, washed with twice 30 cm3 of water, decanted off, dried over anhydrous magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from 20 cm3 of diethyl ether. 0.16 g of 1-benzhydryl-3-[(3-methylaminophenyl)(methylsulfonyl)methylene]azetidine is obtained in the form of a solid melting at 161° C. [NMR spectrum in DMSO-d6, T=300K, δ in ppm (250 MHz): 2.65 (3H, d, J=5 Hz, NCH3), 2.95 (3H, s, SCH3), 3.80 (2H, s, NCH2), 4.20 (2H, s, NCH2), 4.75 (1H, s, NCH), 5.80 (1H, q, J=5 Hz, NH), 6.60 (3H, m, 3CH arom.), 7.15 (1H, t, J=7 Hz, CH arom.), 7.22 (2H, t, J=7 Hz, 2CH arom.), 7.30 (4H, t, J=7 Hz, 4CH arom.), 7.48 (4H, d, J=7 Hz, 4 CH arom.)].

reactant | 1-benzhydryl-3-{[3-(N-tert-butyloxycarbonyl-N-methylamino)phenyl](methylsulfonyl)methylene}azetidine | 0.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC=C1)N(C)C(=O)OC(C)(C)C | C30H34N2O4S
solvent | dioxane | 4 cm3 | O1CCOCC1 | C4H8O2
product | 1-benzhydryl-3-[(3-methylaminophenyl)(methylsulfonyl)methylene]azetidine | 0.16 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC=C1)NC | C25H26N2O2S
